US08440652B2
A solution of 6′-chlorospiro[cyclopropane-1,1′-isoindolin]-3′-one (380 mg, 1.96 mmol), bis(pinacolato)diboron (808 mg, 3.18 mmol), KOAc (677 mg, 6.9 mmol), P(Cy)3 (137 mg, 0.49 mmol) and Pd(dba)3 (180 mg, 0.20 mmol) in dioxane (8 ml) was heated overnight at 100° C. under a reflux condenser. At completion, the reaction was allowed to cool to room temperature, diluted in DCM (40 mL), sonicated and filtered. The filtrate was purified by flash chromatography over silica gel (50/100% EtOAc/hexane eluent). The product containing fractions were taken up in hexanes, then sonicated and filtered to afford 6′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)spiro[cyclopropane-1,1′-isoindolin]-3′-one (520 mg, 93% yield) as a yellow solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.70-7.91 (m, 2H), 7.56 (s, 1H), 1.46-1.68 (m, 4H), 1.15-1.43 (m, 12H); MS (EI) m/z=286.1 [M+1]+.

reactant | 6′-chlorospiro[cyclopropane-1,1′-isoindolin]-3′-one | 1.96 mmol, 380 mg | ClC1=CC=C2C(NC3(C2=C1)CC3)=O | C10H8ClNO
reactant | bis(pinacolato)diboron | 3.18 mmol, 808 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 6.9 mmol, 677 mg | CC(=O)[O-].[K+]
reactant | P(Cy)3 | 0.49 mmol, 137 mg | P(C1CCCCC1)(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 6′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)spiro[cyclopropane-1,1′-isoindolin]-3′-one | 520 mg, 93% yield | CC1(OB(OC1(C)C)C1=CC=C2C(NC3(C2=C1)CC3)=O)C | C16H20BNO3
